US09034900B2
Step 2: 5-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-1-methyl-3-(1-methylpyrazol-4-yl)oxypyridin-2-one
A mixture of 5-bromo-1-methyl-3-(1-methylpyrazol-4-yl)oxypyridin-2-one (30 mg, 0.11 mmol), 2-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (44 mg, 0.16 mmol), Pd(dppf)Cl2 (8 mg) and K3PO4 (57 mg, 0.26 mmol) in dioxane (1.5 mL) and water (200 uL) was purged with nitrogen, capped, and heated to 75° C. for 12 h. After the mixture was filtered through a short bed of celite, the filtrate was concentrated in vacuo and purified by prep-HPLC to afford the title compound (35 mg, 78%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.12-0.36 (m, 2H) 0.46-0.61 (m, 2H) 0.99-1.17 (m, 1H) 3.14-3.23 (m, 3H) 3.55-3.60 (m, 3H) 3.75-3.83 (m, 3H) 3.88-3.96 (m, 2H) 7.18-7.32 (m, 2H) 7.32-7.40 (m, 1H) 7.68-7.91 (m, 4H). LCMS (M+H)+=430.

reactant | 5-bromo-1-methyl-3-(1-methylpyrazol-4-yl)oxypyridin-2-one | 0.11 mmol, 30 mg | BrC=1C=C(C(N(C1)C)=O)OC=1C=NN(C1)C | C10H10BrN3O2
reactant | 2-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.16 mmol, 44 mg | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C17H25BO5S
reactant | K3PO4 | 0.26 mmol, 57 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 200 uL | O | H2O
catalyst | Pd(dppf)Cl2 | 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-1-methyl-3-(1-methylpyrazol-4-yl)oxypyridin-2-one | 35 mg, 78% | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)C=1C=C(C(N(C1)C)=O)OC=1C=NN(C1)C | C21H23N3O5S
